US07105503B2
Preparation of (3-Amino-5-nitrophenyl)methanol
To a solution of 3-amino-5-nitrobenzoic acid (1.12 g, 6.16 mmol) in THF (5 mL) was added dropwise a solution of borane tetrahydrofuran complex solution (13.6 mL, 13.6 mmol) at ambient temperature and the mixture was stirred for 90 minutes. The solvent was then evaporated. Aqueous NaOH (15 mL) was added and the resulting mixture was extracted with ether. The ether solution was dried over anhydrous Na2SO4. Evaporation of ether afforded 921 mg of the title compound (89%).

reactant | 3-amino-5-nitrobenzoic acid | 6.16 mmol, 1.12 g | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-Amino-5-nitrophenyl)methanol | 921 mg, 89% | NC=1C=C(C=C(C1)[N+](=O)[O-])CO | C7H8N2O3
